US05821239
4-Amino-3-pyridinol 1-piperidinecarbamate
A mixture prepared from 4-[[(dimethylamino)methylene]amino]-3-pyridinol 1-piperdine carboxylate (3.4 g), trifluoroacetic acid (11 mL) and water (6 mL) was refluxed for a half hour. The reaction mixture was concentrated, dissolved in saturated NaHCO3 (50 mL) and extracted three times with ethyl acetate (450 mL). The extract was dried (MgSO4), concentrated, and triturated with diethyl ether/pentane (1:2) to yield 2.27 g of solid. This was recrystallized from ethyl acetate and dried under high vacuum and refluxing acetone for 4 hours to yield 1.58 g of crystals, m.p. 134° C. (dec.).

reactant | 4-[[(dimethylamino)methylene]amino]-3-pyridinol 1-piperdine carboxylate | 3.4 g | N1(CCCCC1)C(=O)OC=1C=NC=CC1N=CN(C)C | C14H20N4O2
reactant | trifluoroacetic acid | 11 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 6 mL | O | H2O
product | 4-Amino-3-pyridinol 1-piperidinecarbamate | 2.27 g | N1(CCCCC1)NC(=O)OC=1C=NC=CC1N | C11H16N4O2
